US06177452B1
2-Chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid (1.43 g) was added to an ethanol solution of sodium ethoxide prepared from sodium (0.35 g) and ethanol (15 ml), and stirred under reflux for 30 minutes. The solvent was evaporated, and water was added to the residue, which was then acidified with 2N hydrochloric acid. The crystals thus precipitated were collected by filtration to obtain 4-(4-chlorophenyl)-2-ethoxy-5-oxazolepropionic acid (1.40 g, 95%). This was recrystallized from ethanol to give colorless prisms. mp 148-149° C.

reactant | 2-Chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid | 1.43 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)O | C12H9Cl2NO3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.35 g | [Na] | Na
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(4-chlorophenyl)-2-ethoxy-5-oxazolepropionic acid | 1.40 g, 95% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)OCC | C14H14ClNO4
